US09260425B2
To a mixture of 5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-3-(trimethylstannyl)-1H-pyrazolo[3,4-c]pyridine (250 mg, 0.51 mmol) and 2-bromo-5-methylpyridine (87 mg, 0.51 mmol) in DMF 10 mL, was added TEA (10 mL), LiCl (64 mg, 1.53 mmol), CuI (97 mg, 0.51 mmol), and Pd(PPh3)4 (294 mg, 0.25 mmol). The reaction mixture was heated at 120° C. under microwave irradiation for 1 h, and the reaction was monitored by LCMS. Upon completion of the reaction, the mixture was extracted with 100 mL EtOAc, washed with 50 mL brine, and dried. The solvent was distilled off and the crude material was purified via flash chromatography, eluting with 33% to 66% ethyl acetate in heptane to afford 3-(5-methylpyridin-2-yl)-5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-c]pyridine as an clear oil (115 mg, 54%). ESI MS m/z=417.2 (M+1).

reactant | 5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-3-(trimethylstannyl)-1H-pyrazolo[3,4-c]pyridine | 0.51 mmol, 250 mg | N1=CC(=CC=C1)C=1C=C2C(=CN1)N(N=C2[Sn](C)(C)C)COCC[Si](C)(C)C
reactant | 2-bromo-5-methylpyridine | 0.51 mmol, 87 mg | BrC1=NC=C(C=C1)C | C6H6BrN
reactant | LiCl | 1.53 mmol, 64 mg | [Li+].[Cl-]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 0.51 mmol, 97 mg | [Cu]I
catalyst | Pd(PPh3)4 | 0.25 mmol, 294 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(5-methylpyridin-2-yl)-5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-c]pyridine | 115 mg, 54% | CC=1C=CC(=NC1)C1=NN(C2=CN=C(C=C21)C=2C=NC=CC2)COCC[Si](C)(C)C | C23H27N5OSi
